US06518312B2
4-iso-Butyrylamino-2-methoxy-benzoic acid methyl ester
1.81 g of 4-amino-2-methoxy-benzoic acid methyl ester and 1.4 g of triethylamine were dissolved in 20 ml of dichloromethane. 1.23 g of isobutyryl chloride in 5 ml of dichloromethane was added dropwise at 0° C. The reaction mixture was allowed to reach room temperature and stirred for 3 hours. The reaction mixture was washed with water, dried and the solvents were evaporated to yield 1.9 g of the title product.

reactant | 4-amino-2-methoxy-benzoic acid methyl ester | 1.81 g | COC(C1=C(C=C(C=C1)N)OC)=O | C9H11NO3
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 1.23 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-iso-Butyrylamino-2-methoxy-benzoic acid methyl ester | 1.9 g | COC(C1=C(C=C(C=C1)NC(C(C)C)=O)OC)=O | C13H17NO4
